US04558132
6-(2-Chlorophenyl)-11-methyl-11H-pyrido[2,3-b][1,4]benzodiazepine
Following the procedure of example 58, 2-chloro-N-[2-(methylphenylamino)-3-pyridinyl]benzamide was cyclized to the title compound with phosphorus oxychloride and isolated, recrystallizing from isopropyl alcohol as yellow solid, m.p. 131.5°-133° C.

reactant | 2-chloro-N-[2-(methylphenylamino)-3-pyridinyl]benzamide | ClC1=C(C(=O)NC=2C(=NC=CC2)N(C2=CC=CC=C2)C)C=CC=C1 | C19H16ClN3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-(2-Chlorophenyl)-11-methyl-11H-pyrido[2,3-b][1,4]benzodiazepine | ClC1=C(C=CC=C1)C1=NC2=C(N(C3=C1C=CC=C3)C)N=CC=C2 | C19H14ClN3
